US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hyroxyphenyl)-2,4-pyrimidinediamine, N4-(3-tert-butylphenyl)-2-chloro-5-fluoro-4-pyrimidineamine and 2-methoxycarbonyl-5-aminobenzofuran were reacted to give N4-(3-tert-butylphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofur-5-yl)-2,4-pyrimidinediamine. LCMS: retn, time: 26.76 min.; purity: 97%; MS (m/e): 435 (MH+); 1H NMR (DMSO-d6): δ 9.41 (2H, sl), 8.27 (1H, s), 8.21 (1H, d, J 3.9 Hz), 7.98 (1H, m), 7.77–7.60 (3H, m), 7.37 (1H, t, J 8.1 Hz), 7.22 (1H, d, J 8.1 Hz), 3.98 (3H, s), 1.34 (9H, s).

reactant | N4-(3-tert-butylphenyl)-2-chloro-5-fluoro-4-pyrimidineamine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | C14H15ClFN3
reactant | 2-methoxycarbonyl-5-aminobenzofuran | COC(=O)C=1OC2=C(C1)C=C(C=C2)N | C10H9NO3
product | N4-(3-tert-butylphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofur-5-yl)-2,4-pyrimidinediamine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C24H23FN4O3
